US05962458
A solution of 7-benzyloxy-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxyquinazoline hydrochloride (700 mg, 1.45 mmol) in DMF (10 ml), methanol (10 ml) and trichloromethane (10 ml) containing 10% palladium-on-charcoal (100 mg) was stirred under an atmosphere of hydrogen for 1 hour. After filtration and evaporation of the solvent, the residue was triturated with ether, filtered and dried under vacuum to give 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride (570 mg, 98%).

reactant | 7-benzyloxy-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxyquinazoline hydrochloride | 1.45 mmol, 700 mg | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)OC(=O)OC)C)F)OC
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | methanol | 10 ml | CO | CH4O
solvent | trichloromethane | 10 ml | ClC(Cl)Cl | CHCl3
catalyst | palladium-on-charcoal | 100 mg | [Pd] | Pd
product | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride | 570 mg, 98% | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C(C(=C1)C)OC(=O)OC | InChI=1S/C18H16FN3O5.ClH/c1-9-4-11(19)13(7-15(9)27-18(24)26-3)22-17-10-5-16(25-2)14(23)6-12(10)20-8-21-17;/h4-8,23H,1-3H3,(H,20,21,22);1H
